US08541428B2
2-Dimethylamino-isoindole-1,3-dione (16)
To the suspension of phthalic anhydride (62.5 mmol) in toluene (500 ml), N,N-dimethyl hydrazine dihydrochloride (50 mmol) and diethyl-phenyl-amine (90 mmol) were added. The reaction mixture was refluxed for 18 hours while removing the formed water via a Dean-Stark trap. Then, toluene was evaporated under reduced pressure and the resulting crude was purified on silica gel chromatography with (1:5) EtOAc:dichloromethane, to give the desired product in 85% yield.

reactant | phthalic anhydride | 62.5 mmol | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | N,N-dimethyl hydrazine dihydrochloride | 50 mmol | Cl.Cl.CN(N)C
reactant | diethyl-phenyl-amine | 90 mmol | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Dimethylamino-isoindole-1,3-dione | 85% yield | CN(N1C(C2=CC=CC=C2C1=O)=O)C | C10H10N2O2
